US07786114B2
Stage 34(a): 4-Cyano-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine
To a solution of 10 g of 4-chloro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine in 200 cm3 of N,N-dimethylacetamide, under an inert atmosphere of argon, are added 6.9 g of zinc cyanide and 1.07 g of zinc powder. After stirring for 45 minutes at a temperature in the region of 20° C., 2.4 g of PdCl2, dppf are added. The reaction medium is heated at a temperature in the region of 140° C. for 1 hour 30 minutes. After cooling, the reaction medium is filtered through Celite and then rinsed with dichloromethane. 150 cm3 of water are added to the filtrate. After separation of the phases by settling, the organic phase is dried over sodium sulfate, filtered and then concentrated under reduced pressure. After purification by flash chromatography on a column (SiO2, cyclohexane/ethyl acetate, 75/25 by volume as eluent, Ar), 8.57 g of 4-cyano-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine are obtained with the following characteristics:

reactant | 4-chloro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 10 g | ClC1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C14H11ClN2O2S
reactant | N,N-dimethylacetamide | 200 cm3 | CN(C(C)=O)C | C4H9NO
catalyst | zinc cyanide | 6.9 g | [C-]#N.[Zn+2].[C-]#N
catalyst | zinc | 1.07 g | [Zn] | Zn
catalyst | PdCl2 | 2.4 g | Cl[Pd]Cl
catalyst | dppf | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 4-Cyano-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | C(#N)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C15H11N3O2S
